US06861410B1
A solvent-based phase is created by first dissolving 840 ul of 20 mg/ml cholesterol, available from Avanti Lipids, Inc., in chloroform, placing it in a 100 ml beaker and leaving it in a laboratory hood until the volume is reduced to approximately 400 ul. 200 ul of Span® 85, a sorbitan fatty acid ester available from Sigma Chemicals, and 2 ml squalene, a terpenoid commonly obtained from shark liver oil and available from Sigma Chemicals, are then added, followed by mixing.

reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | squalene | 2 ml | CC(C)=CCC\C(\C)=C\CC\C(\C)=C\CC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | C30H50
